US04849420
5,9,14,14a-Tetrahydro-2,3-dimethoxyisoquino[1,2-b][3]benzazepin-8(6H)-one (XIIc)
To an ice-chilled solution of 2-[(1,2,3,4-tetrahydro-6,7-dimethoxyisoquinolinyl)methyl]benzeneacetic acid (XIc, Ex. 16) (0.4 g, 1.17 mmole) and 4-dimethylaminopyridine (0.15 g, 1.23 mmol) in dry acetonitrile (45 ml) was added with stirring dicyclohexylcarbodiimide (0.24 g, 1.17 mmole). The resulting mixture was stirred at room temperature for 6 hours, then heated to boiling briefly. When the mixture was cooled to room temperature, there was separated a precipitate which was removed by filtration. The filtrate was concentrated to about 10 ml, and chilled in ice to cause a separation of a precipitate. The precipitate was collected on a filter and recrystallized from ethanol, giving the titled product (0.26 g, 69%) which is identical with that described in Example 15.

reactant | 2-[(1,2,3,4-tetrahydro-6,7-dimethoxyisoquinolinyl)methyl]benzeneacetic acid | 1.17 mmole, 0.4 g | COC=1C=C2CCNC(C2=CC1OC)CC1=C(C=CC=C1)CC(=O)O | C20H23NO4
reactant | dicyclohexylcarbodiimide | 1.17 mmole, 0.24 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 1.23 mmol, 0.15 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
product | 5,9,14,14a-Tetrahydro-2,3-dimethoxyisoquino[1,2-b][3]benzazepin-8(6H)-one | 0.26 g, 69% | COC=1C(=CC=2CCN3C(CC4=C(CC3=O)C=CC=C4)C2C1)OC | C20H21NO3
